US07482448B2
Perhydro-1,4-oxazepine-4-carboxylic acid [(S)-1-((S)-1-cyano-propylcarbamoyl)-3,3-difluoro-hexyl]-amide
By proceeding in a similar manner to Example 28 above but using 4,4-Difluoro-2-[([1,4]oxazepane-4-carbonyl)-amino]-heptanoic acid and (S)-2-Amino-butyronitrile hydrochloride there is prepared Perhydro-1,4-oxazepine4-carboxylic acid [(S)-1-((S)-1-cyano-propylcarbamoyl)-3,3-fluoro-hexyl]-amide.

reactant | 4,4-Difluoro-2-[([1,4]oxazepane-4-carbonyl)-amino]-heptanoic acid | FC(CC(C(=O)O)NC(=O)N1CCOCCC1)(CCC)F | C13H22F2N2O4
reactant | (S)-2-Amino-butyronitrile hydrochloride | Cl.N[C@H](C#N)CC
product | Perhydro-1,4-oxazepine-4-carboxylic acid [(S)-1-((S)-1-cyano-propylcarbamoyl)-3,3-difluoro-hexyl]-amide | C(#N)[C@H](CC)NC(=O)[C@H](CC(CCC)(F)F)NC(=O)N1CCOCCC1 | C17H28F2N4O3
